US09079866B2
5-[2′-(Cyclobutylsulfonyl)-3-fluorobiphenyl-4-yl]pyrazin-2-amine
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 1-bromo-2-(cyclobutylsulfonyl)benzene. MS (ESI): mass calcd. for C20H18FN3O2S, 383.11; m/z found, 384.2 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.44 (s, 1H), 8.17 (dd, J=7.9, 1.1, 1H), 8.13 (d, J=1.4, 1H), 7.96 (m, 1H), 7.77 (m, 1H), 7.68 (m, 1H), 7.46 (dd, J=7.6, 1.1, 1H), 7.34 (s, 1H), 7.31 (dd, J=6.4, 1.5, 1H), 3.65-3.53 (m, 1H), 2.39-2.26 (m, 2H), 2.08-1.98 (m, 2H), 1.98-1.87 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-bromo-2-(cyclobutylsulfonyl)benzene | BrC1=C(C=CC=C1)S(=O)(=O)C1CCC1 | C10H11BrO2S
product | 5-[2′-(Cyclobutylsulfonyl)-3-fluorobiphenyl-4-yl]pyrazin-2-amine | C1(CCC1)S(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C20H18FN3O2S
